US05563163
It is contemplated that 6-hydroxy-4-isopropyl-2-saccharinylmethyl 3,5-dichloropyridine-4-carboxylate can be treated with trifluoromethanesulfonic anhydride in the presence of triethylamine to afford 4-isopropyl-6-trifluoromethanesulfonyloxysaccharinylmethyl 3,5-dichloropyridine-4-carboxylate.

reactant | 6-hydroxy-4-isopropyl-2-saccharinylmethyl 3,5-dichloropyridine-4-carboxylate | ClC=1C=NC=C(C1C(=O)OCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)C)O)Cl | C17H14Cl2N2O6S
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-isopropyl-6-trifluoromethanesulfonyloxysaccharinylmethyl 3,5-dichloropyridine-4-carboxylate | ClC=1C=NC=C(C1C(=O)OCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)C)OS(=O)(=O)C(F)(F)F)Cl | C18H13Cl2F3N2O8S2
